US09233098B2
1. Preparation of 2-methyl-3-(4-nitrobenzyl)-1H-indole
In an ice water bath, into a reaction vessel were added trifluoroacetic acid (6.824 g, 60 mmol), triethylsilane (13.9 g, 120 mmol), dichloromethane 20 mL. After stirring for 5 min, a dichloromethane solution dissolving 2-methyl-1H-indole (5.24 g, 40 mmol) and p-nitro benzaldehyde (6.67 g, 44 mmol) was added dropwise slowly into the reaction vessel. After completion of dropwise addition, it was reacted maintaining this temperature for 1 h. It was adjusted to pH=8-9 with 2 M solution of sodium hydroxide. An aqueous solution of sodium chloride was added, and extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, concentrated to dryness to obtain a red brown solid, and washed with diethyl ether to obtain a yellow powdered solid 4.3 g, at a yield of 40.3%.

reactant | trifluoroacetic acid | 60 mmol, 6.824 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 120 mmol, 13.9 g | C(C)[SiH](CC)CC | C6H16Si
reactant | 2-methyl-1H-indole | 40 mmol, 5.24 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | p-nitro benzaldehyde | 44 mmol, 6.67 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-methyl-3-(4-nitrobenzyl)-1H-indole | 4.3 g, yield of 40.3% | CC=1NC2=CC=CC=C2C1CC1=CC=C(C=C1)[N+](=O)[O-] | C16H14N2O2
